US07781436B2
To a stirred solution of 40 mg (0.11 mmol) of (4-benzyl-4-hydroxy-piperidin-1-yl)-(2-methyl-1H-indol-3-yl)-methanone in 5 ml DMF were added 5 mg (0.11 mmol) NaH (60% in oil). The mixture was stirred at RT for 30 min. and then 28 mg (0.13 mmol) of 1-bromomethyl-2-chloro-benzene were added. The mixture was stirred an additional hour and then poured onto water and extracted with ethyl acetate. The combined organic phases were dried over Na2SO4 and concentrated in vacuo. Preparative HPLC (30% CH3CN/H2O) afforded 33 mg (61%) of (4-benzyl-4-hydroxy-piperidin-1-yl)-[1-(2-chloro-benzyl)-2-methyl-1H-indol-3-yl]-methanone as a white solid.

reactant | (4-benzyl-4-hydroxy-piperidin-1-yl)-(2-methyl-1H-indol-3-yl)-methanone | 0.11 mmol, 40 mg | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=C(NC2=CC=CC=C12)C)O | C22H24N2O2
reactant | NaH | 0.11 mmol, 5 mg | [H-].[Na+]
reactant | 1-bromomethyl-2-chloro-benzene | 0.13 mmol, 28 mg | BrCC1=C(C=CC=C1)Cl | C7H6BrCl
solvent | DMF | 5 ml | CN(C)C=O | C3H7NO
product | (4-benzyl-4-hydroxy-piperidin-1-yl)-[1-(2-chloro-benzyl)-2-methyl-1H-indol-3-yl]-methanone | 33 mg, 61% | C(C1=CC=CC=C1)C1(CCN(CC1)C(=O)C1=C(N(C2=CC=CC=C12)CC1=C(C=CC=C1)Cl)C)O | C29H29ClN2O2
